US07592373B2
3.25.b. 5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridine
In an argon atmosphere, 6.93 g (6 mmol) of tetrakistriphenylphosphine palladium and 17 mL of a 2M sodium carbonate solution are added to a solution of 20.4 g (80.25 mmol) of 5-bromo-2-trimethylsilanylethynylpyridine and 26.33 g (160 mmol) of 4-chlorophenylboric acid in 350 mL of dioxane and the reaction mixture is stirred for 5 hours at 90° C., while every 30 minutes 7 mL of 2M sodium carbonate solution is added. Then at ambient temperature, 1000 mL of ethyl acetate is added, and the mixture is extracted twice with 400 mL of sodium hydrogen carbonate solution. The organic phase is dried over magnesium sulfate. The purification is carried out by column chromatography on silica gel (eluant: petroleum ether to petroleum ether/ethyl acetate (9:1)). Yield: 7.9 g (34.4% of theory); C16H16ClNSi (M=285.85); calc.: molecular ion peak (M−H)−: 286/288; found: molecular ion peak (M−H)−: 286/288; Rf value: 0.6 (silica gel, petroleum ether/ethyl acetate (8:2)).

reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-trimethylsilanylethynylpyridine | 80.25 mmol, 20.4 g | BrC=1C=CC(=NC1)C#C[Si](C)(C)C | C10H12BrNSi
reactant | 4-chlorophenylboric acid | 160 mmol, 26.33 g | ClC1=CC=C(C=C1)OB(O)O | C6H6BClO3
reactant | sodium carbonate | 2M, 7 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 350 mL | O1CCOCC1 | C4H8O2
product | 5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C[Si](C)(C)C | C16H16ClNSi
